2110-02-27 00:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   59 yo M w/ DM, HTN, hyperlipidemia and CAD s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (Prefixes) **] 2 to the RCA in
   [**2104**], and Rotablator, [**Year (4 digits) **] of the LAD [**5-21**] presents as OSH ED transfer
   with NSTEMI, trop I 4. Reports intermittent CP and palpitations, since
   sunday, improved Monday. Went to OSH because of abdominal heaviness,
   chills and residual fatigue. On admission found to have EKG changes
   concerning for NSTEMI and Trop I of 4. Transfered here for cath. Hep
   GTT, integrillin (stopped on arrival), lipitor 80,and plavix loaded at
   OSH. Of note he had been evaluated 6-9 months ago with rec for CABG but
   deferred being concerned about taking time off work for recovery. At
   that time a left main lesion 50-60% occluded, note on cath y/d to be
   90% occluded with tight LAD (70% diag, LAD stent patent), tight LCx
   (diffuse prox disease and severe angulation,probable 70% stenosis
   proximal RCA, known TO, L>R collaterals, and a [**Month/Year (2) **] to LAD was placed.
   Also noted on right  heart cath PC to have PCWP of 30, swan left in
   place, also with IABP to support coronary perfusion.
     .
   On arrival to the unit he was CP free with IABP, swan and heparin drip.
   He was HD stable and EKG unchanged.
   PAST MEDICAL HISTORY:
   Cardiac Risk Factors: + Diabetes, + Dyslipidemia, + Hypertension
   .
   Cardiac History:
   .
   Percutaneous coronary intervention, 2 stents in RCA in [**2104**] and in
   [**2109-6-10**] anatomy as follows:total occlusion of the previously stented
   right coronary artery and the circumflex had a complex 80% stenosis
   which was not well suited for coronary intervention. Rotablator and
   drug-coated stenting of the LAD on [**2109-6-10**]
   .
   OTHER PAST MEDICAL HISTORY:
   HTN
   hyperlipidemia
   Diabetes on insulin pump
   DJD
   .
   CURRENT MEDICATIONS:
   amlodipine 5 mg daily
   aspirin 325 mg daily
   Plavix 75 mg daily
   Diovan 160 mg daily
   metoprolol succinate 50 mg daily
   fenofibrate 134 mg daily
   simvastatin 80 mg daily
   alprazolam 0.125mg rarely
   NovoLog pump
   ranitidine 75 mg twice a day
   zolpidem 10 [**Doctor Last Name 12032**].r.n.
   fish oil 600 mg twice a day.
   B complex
   Vit C
   Vit E
   MVI
   Saw [**Location (un) **]
   Ginko
   CoQ
   .
   ALLERGIES: NKDA
   .
   SOCIAL History: -Tobacco history: very remote history
   -ETOH: very rare
   - works as business manager, lives alone
   .
   FAMILY HISTORY:
   Father with MI at age 55, brother MI age 62
   .
   MEDICAL DECISION MAKING
   ECG:NSR at 90, Na, NI, poor R wave progression anteriorly, new twave
   inversions v3-v6, w/ St depressions V3-V6 as compared with [**2109-6-7**].
   .
   EKG NSR, NA, twave inversions V3-6, I/[**Last Name (LF) **], [**First Name3 (LF) **] depressions v3-5, no q
   waves.
   VS 88 110/71 99% on RA 18.
   .
   CTH:[**5-21**]
   Selective coronary angiography of this right-domimant system
   demonstrated three-vessel coronary artery disease. The LMCA had a
   distal 50-60% stenosis. The LAD had a calcified stenosis in the
   mid-vessel with a 80-90% diagonal branch origin stenosis. The LCX was
   retroflexed and had a proximal 80% stenosis. The RCA was occluded
   proximally, with left-to-right collaterals filling the PDA and PL
   branches.
   2.Limited resting hemodynamics demonstrated mild systemic arterial
   hypertension as above.
   3. Successful rotational atherectomy, PTCA and stenting of the mid LAD
   with a Cypher (2.5x18mm) drug eluting stent postdilated with
   a 3mm balloon. Final angiography demonstrated no angiography apparent
   dissection, no residual stenosis and TIMI III flow throughout the
   vessel
   (See PTCA comments).
   4. IVUS interrogation of the Left main demonstrated a MCSA of 6.1mm2.
   FINAL DIAGNOSIS:
   1. Three-vessel coronary artery disease.
   2. Systemic arterial hypertension.
   3. Rotational atherectomy and [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 1891**] in the mid-LAD.
   .
   TTE: [**11-20**]
   There is mild symmetric left ventricular hypertrophy with normal cavity
   size. There is mild regional left ventricular systolic dysfunction with
   moderate focal basal to mid inferior and inferolateral hypokinesis.
   Right ventricular chamber size and free wall motion are normal. The
   diameters of aorta at the sinus, ascending and arch levels are normal.
   The aortic valve leaflets (3) appear structurally normal with good
   leaflet excursion and no aortic regurgitation. The mitral valve appears
   structurally normal with trivial mitral regurgitation. There is no
   mitral valve prolapse. The pulmonary artery systolic pressure could not
   be determined. There is no pericardial effusion.
   IMPRESSION: Suboptimal image quality. Mild symmetric left ventricular
   hypertrophy with moderate focal basilar and mid inferior and
   inferolateral hypokinesis consistent with coronary artery disease.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 7 units/hour
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2110-2-26**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-2-27**] 12:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**11**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100.1
   HR: 80 (80 - 92) bpm
   BP: 95/49(73) {95/49(73) - 120/65(94)} mmHg
   RR: 24 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.2 kg (admission): 110.2 kg
   Height: 69 Inch
    PAP: (49 mmHg) / (22 mmHg)
   Total In:
                                                                    411 mL
                                                                     10 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    171 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  2,825 mL
                                                                      0 mL
   Urine:
                                                                  2,825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,414 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   VS - 110/700 93 20 96% on RA
   Gen: obese middle aged male in NAD. Oriented x3.Neuro grossly intact
   II-XII
   JVP:obese, lying flat given IABP, unable to assess JVP
   HEENT: PERRLA
   With IABP on standby
   CV: RRR, no MRG, S1S2 clear, no thrills, lifts, no S3,S4. PMI located
   in 5th intercostal space, midclavicular line. Hs distant, RR, normal
   S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   Chest: breathing comfortably, CTA-B, no wheeze, rales, ronchi
   Abd: obese, Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext:trace pitting edema bilateral lower extremities. Warm and well
   perfused. Swan, IABP sheath at right femoral. No bruits BUE,BLE
   pulses:  DP/PT dopplerable.
   .  .
   LABORATORY DATA:
   OSH Labs
   Cr 1.5
   BUN 29
   CK 319
   WBC 14.9 left shift
   HCT 38.9
   PLT 199
   AP 40
   AST 68
   ALt 38
   Tbili 1.3
   Labs / Radiology
   245 K/uL
   12.0 g/dL
   241 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.3 mEq/L
   32 mg/dL
   103 mEq/L
   137 mEq/L
   35.4 %
   11.0 K/uL
        [image002.jpg]
                             [**2110-2-26**]  06:12 PM
   WBC
   11.0
   Hct
   35.4
   Plt
   245
   Cr
   1.2
   Glucose
   241
   Other labs: PT / PTT / INR:13.5/30.4/1.2, ALT / AST:29/44, Alk Phos / T
   Bili:39/1.1, Albumin:3.3 g/dL, LDH:351 IU/L, Ca++:8.1 mg/dL, Mg++:2.1
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 DIABETES MELLITUS (DM), TYPE II
   Patient is a 59 yo M w/DM, HTN, hyperlipidemia and CAD s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (Prefixes) **] 2 to
   the RCA in [**2104**], and Rotablator, [**Year (4 digits) **] of the LAD [**5-21**] presents as OSH ED
   transfer with missed event and trop I 4, s/p CABG for NSTEMI with [**Month/Year (2) **]
   in LAD
   .
   #. CAD - s/p [**Month/Year (2) **] to RCA, [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]. Known LCX 80% lesion that was unable
   to be intervened upon in [**5-21**]. Was apparently referred for CABG during
   his last hosp stay but felt he would be unable to go through with it
   [**1-14**] missing work. Then presented 3 days out from onset symptoms with
   fatigue and troponin I of 4 at OSH. Presumed NSTEMI as no evidence of Q
   waves on EKG. Now presenting 3 days out from onset of symptoms w/
   fatigue and troponin I of 4 at OSH. Presumed NSTEMI as no evidence of Q
   waves on EKG. Now s/p cath with [**Month/Day (2) **] in LAD, and IABP to augment
   coronary blood flow.
   Swan ganz for hemodynamics
   - continue heparin gtt to OR
   -continue IABP, with heparin for IABP
   - continue asa
   - continue BB, simva 80
   -hold plavix given pending CABG.
   - keep NPO for CABG in am
   - telemetry, am EKG
   -per cards surgery check LFTS,UA/Cx preop
   -appreciate Cards [**Doctor First Name 91**] recs.
   .
   #. Pump - EF45-50% on ECHO [**11-20**]. No evidence of volume overload on
   exam. Not on home lasix.
   - continue BB, [**Last Name (un) **]
   .
   # Acute Renal Failure - Cr 1.5 at OSH, 1.4 today. Baseline 0.9, suspect
   etiology poor forward flow in setting of recent MI.
   - gentle IVF for post hydration post cath
   - trend Cr, avoid nephrotoxins
   .
   # Leukocytosis - Afebrile, no localizing symptoms. Suspect NSTEMI as
   etiology. per pt CXR performed at OSH, but no record found in chart
   - trend WBC, fever curve
   - culture if spikes
   .
   #. HTN
   - continue amlodipine, BB, [**Last Name (un) **]
   .
   #. Hyperlipidemia
   - continue home regimen of simvastatin 80 and fibrate, fish oil
   .
   # DM -insulin dependent on pump, control unknown, last A1c in our
   system [**2105**]
   insulin drip to OR
   -may resume insulin pump at 3u/hr post op while NPO
   Dispo: To CABG tomorrow.
   ICU Care
   Nutrition: .
   #. FEN - NPO, IVF as above, replete lytes prn
   .
   #. Access: PIV
   .
   #. PPx: heparin gtt, H2 blocker, bowel regimen not indicated
   .
   #. Code: FULL
   .
   # Communication: Patient, Brother: [**Name (NI) **] [**Name (NI) 1817**]: [**Telephone/Fax (1) 12033**]
   Glycemic Control:
   Lines:
   18 Gauge - [**2110-2-26**] 04:43 PM
   20 Gauge - [**2110-2-26**] 04:45 PM
   PA Catheter - [**2110-2-26**] 04:46 PM
   IABP line - [**2110-2-26**] 04:47 PM
   Prophylaxis:

2110-02-27 06:04:00 Physician Resident Progress Note
Chief Complaint: - single episode of ?sinus tachy overnight
   (asymptomatic although patient could hear balloon pump); patient was
   given his BB
   - got gentle 250 cc NS bolus overnight for low UOP
   24 Hour Events:
 PA CATHETER - START [**2110-2-26**] 04:46 PM
 IABP LINE - START [**2110-2-26**] 04:47 PM
 NASAL SWAB - At [**2110-2-26**] 11:55 PM
 URINE CULTURE - At [**2110-2-27**] 01:23 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,550 units/hour
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2110-2-26**] 08:30 PM
   Lorazepam (Ativan) - [**2110-2-27**] 05:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-2-27**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**11**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.4
C (99.4
   HR: 78 (78 - 92) bpm
   BP: 101/47(74) {89/46(70) - 120/65(94)} mmHg
   RR: 23 (16 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.2 kg (admission): 110.2 kg
   Height: 69 Inch
    PAP: (49 mmHg) / (18 mmHg)
   Total In:
                                                                    561 mL
                                                                    433 mL
   PO:
                                                                    390 mL
   TF:
   IVF:
                                                                    171 mL
                                                                    433 mL
   Blood products:
   Total out:
                                                                  2,825 mL
                                                                    400 mL
   Urine:
                                                                  2,825 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,264 mL
                                                                     33 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   238 K/uL
   11.9 g/dL
   104 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   32 mg/dL
   107 mEq/L
   141 mEq/L
   33.6 %
   10.9 K/uL
        [image002.jpg]
                             [**2110-2-26**]  06:12 PM
                             [**2110-2-27**]  03:47 AM
   WBC
   11.0
   10.9
   Hct
   35.4
   33.6
   Plt
   245
   238
   Cr
   1.2
   1.0
   Glucose
   241
   104
   Other labs: PT / PTT / INR:13.8/57.5/1.2, ALT / AST:29/44, Alk Phos / T
   Bili:39/1.1, Differential-Neuts:72.4 %, Lymph:18.6 %, Mono:7.2 %,
   Eos:1.4 %, Albumin:3.3 g/dL, LDH:351 IU/L, Ca++:7.8 mg/dL, Mg++:2.4
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2110-2-26**] 04:43 PM
   20 Gauge - [**2110-2-26**] 04:45 PM
   PA Catheter - [**2110-2-26**] 04:46 PM
   IABP line - [**2110-2-26**] 04:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-02-27 06:35:00 Physician Resident Progress Note
Chief Complaint:
   -received post cath hydration
   - single episode of ?sinus tachy overnight (asymptomatic although
   patient could hear balloon pump); patient was given his BB
   - got gentle 250 cc NS bolus overnight for low UOP
   24 Hour Events:
 PA CATHETER - START [**2110-2-26**] 04:46 PM
 IABP LINE - START [**2110-2-26**] 04:47 PM
 NASAL SWAB - At [**2110-2-26**] 11:55 PM
 URINE CULTURE - At [**2110-2-27**] 01:23 AM
   VS - 110/700 93 20 96% on RA
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,550 units/hour
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2110-2-26**] 08:30 PM
   Lorazepam (Ativan) - [**2110-2-27**] 05:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-2-27**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**11**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.4
C (99.4
   HR: 77 (77 - 92) bpm
   BP: 101/52(74) {89/46(70) - 120/65(94)} mmHg
   RR: 24 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110 kg (admission): 110.2 kg
   Height: 69 Inch
    PAP: (51 mmHg) / (19 mmHg)
   Total In:
                                                                    561 mL
                                                                    451 mL
   PO:
                                                                    390 mL
   TF:
   IVF:
                                                                    171 mL
                                                                    451 mL
   Blood products:
   Total out:
                                                                  2,825 mL
                                                                    455 mL
   Urine:
                                                                  2,825 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,264 mL
                                                                     -4 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Gen: obese middle aged male in NAD. Oriented x3.Neuro grossly intact
   II-XII
   JVP:obese, lying flat given IABP, unable to assess JVP
   HEENT: PERRLA
   With IABP on standby
   CV: RRR, no MRG, S1S2 clear, no thrills, lifts, no S3,S4. PMI located
   in 5th intercostal space, midclavicular line. Hs distant, RR, normal
   S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   Chest: breathing comfortably, CTA-B, no wheeze, rales, ronchi
   Abd: obese, Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext:trace pitting edema bilateral lower extremities. Warm and well
   perfused. Swan, IABP sheath at right femoral. No bruits BUE,BLE
   pulses:  DP/PT dopplerable.
   Labs / Radiology
   238 K/uL
   11.9 g/dL
   104 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   32 mg/dL
   107 mEq/L
   141 mEq/L
   33.6 %
   10.9 K/uL
        [image002.jpg]
                             [**2110-2-26**]  06:12 PM
                             [**2110-2-27**]  03:47 AM
   WBC
   11.0
   10.9
   Hct
   35.4
   33.6
   Plt
   245
   238
   Cr
   1.2
   1.0
   Glucose
   241
   104
   Other labs: PT / PTT / INR:13.8/57.5/1.2, ALT / AST:29/44, Alk Phos / T
   Bili:39/1.1, Differential-Neuts:72.4 %, Lymph:18.6 %, Mono:7.2 %,
   Eos:1.4 %, Albumin:3.3 g/dL, LDH:351 IU/L, Ca++:7.8 mg/dL, Mg++:2.4
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 DIABETES MELLITUS (DM), TYPE II
   Patient is a 59 yo M w/DM, HTN, hyperlipidemia and CAD s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (Prefixes) **] 2 to
   the RCA in [**2104**], and Rotablator, [**Year (4 digits) **] of the LAD [**5-21**] presents as OSH ED
   transfer with missed event and trop I 4, s/p CABG for NSTEMI with [**Month/Year (2) **]
   in LAD
   .
   #. CAD - s/p [**Month/Year (2) **] to RCA, [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]. Known LCX 80% lesion that was unable
   to be intervened upon in [**5-21**]. Was apparently referred for CABG during
   his last hosp stay but felt he would be unable to go through with it
   [**1-14**] missing work. Then presented 3 days out from onset symptoms with
   fatigue and troponin I of 4 at OSH. Presumed NSTEMI as no evidence of Q
   waves on EKG. Now presenting 3 days out from onset of symptoms w/
   fatigue and troponin I of 4 at OSH. Presumed NSTEMI as no evidence of Q
   waves on EKG. Now s/p cath with [**Month/Day (2) **] in LAD, and IABP to augment
   coronary blood flow.
   Swan ganz for hemodynamics
   - continue heparin gtt to OR
   -continue IABP, with heparin for IABP
   - continue asa
   - continue BB, simva 80
   -hold plavix given pending CABG.
   - keep NPO for CABG this am
   - telemetry, am EKG
   -per cards surgery check LFTS,UA/Cx preop
   -appreciate Cards [**Doctor First Name 91**] recs.
   .
   #. Pump - EF45-50% on ECHO [**11-20**]. No evidence of volume overload on
   exam. Not on home lasix.
   - continue BB, [**Last Name (un) **]
   .
   # Acute Renal Failure - Cr 1.5 at OSH, 1.4 on admit, now 1.0. Baseline
   0.9, suspect etiology poor forward flow in setting of recent MI.
   - post hydration post cath completed.
   - trend Cr, avoid nephrotoxins
   .
   # Leukocytosis
 improved, Afebrile, no localizing symptoms. Suspect
   NSTEMI as etiology. per pt CXR performed at OSH, but no record found in
   chart
   - trend WBC, fever curve
   - culture if spikes
   .
   #. HTN
   - continue amlodipine, BB, [**Last Name (un) **]
   .
   #. Hyperlipidemia
   - continue home regimen of simvastatin 80 and fibrate, fish oil
   .
   # DM -insulin dependent on pump, control unknown, last A1c in our
   system [**2105**]
   insulin drip to OR
   -may resume insulin pump at 3u/hr post op while NPO
   .
   .
   ICU Care
   Nutrition: NPO for CABG. Replete lytes PRN.
   Glycemic Control:  insulin drip
   Lines:
   18 Gauge - [**2110-2-26**] 04:43 PM
   20 Gauge - [**2110-2-26**] 04:45 PM
   PA Catheter - [**2110-2-26**] 04:46 PM
   IABP line - [**2110-2-26**] 04:47 PM
   Prophylaxis:
   DVT: heparin GTT
   Stress ulcer: H2 BLocker
   VAP:
   Comments:
   Communication:  Comments: Patient, Brother: [**Name (NI) **] [**Name (NI) 1817**]: [**Telephone/Fax (1) 12033**]
   Code status: Full code
   Disposition: CABG today